US08349870B2
Step A: Preparation of 5-(2,6-difluorophenyl)-4,5-dihydro-N,N-dimethyl-3-isoxazolecarboxamide
To a 1000-mL round bottom flask equipped with a mechanical stirrer, thermometer and addition funnel were added 2-(dimethylamino)-N-hydroxy-2-oxoethanimidoyl chloride (94.0 g, 0.62 mol) and a solution of 2,6-difluorostyrene (84.0 g, 0.60 mol) in chlorobenzene (275 g). The reaction mixture was cooled to 10° C., and then a solution of potassium bicarbonate (70 g, 0.70 mol) in water (350 mL) was added dropwise over 1 h while maintaining the temperature between 10 to 15° C. When gas chromatography analysis of the reaction mixture showed about 3% of 2-(dimethylamino)-N-hydroxy-2-oxo-ethanimidoyl chloride remaining, water (200 mL) was added to the reaction mixture, and the layers were separated. The organic layer was washed with water (300 mL) and concentrated under reduced pressure. Toluene was added to the resulting residue, and the mixture was concentrated under reduced pressure to provide the title compound as an oil (144g).

reactant | 2-(dimethylamino)-N-hydroxy-2-oxoethanimidoyl chloride | 0.62 mol, 94.0 g | CN(C(C(=NO)Cl)=O)C | C4H7ClN2O2
reactant | 2,6-difluorostyrene | 0.60 mol, 84.0 g | FC1=C(C=C)C(=CC=C1)F | C8H6F2
reactant | potassium bicarbonate | 0.70 mol, 70 g | C([O-])(O)=O.[K+]
solvent | chlorobenzene | 275 g | ClC1=CC=CC=C1 | C6H5Cl
solvent | water | 350 mL | O | H2O
solvent | water | 200 mL | O | H2O
product | 5-(2,6-difluorophenyl)-4,5-dihydro-N,N-dimethyl-3-isoxazolecarboxamide | FC1=C(C(=CC=C1)F)C1CC(=NO1)C(=O)N(C)C | C12H12F2N2O2
